US07514452B2
A mixture composed of 4,5-dibromo-2-furancarboxylic acid (20.00 g), DMF di-tert-butylacetal (71.08 ml) and toluene (100 ml) was stirred for 2 hours at 90° C. The reaction solution was diluted with toluene and washed with 10% aqueous citric acid solution and saturated brine. The organic layer was dried over MgSO4, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/20), thereby giving 20.10 g of tert-butyl 4,5-dibromo-2-furancarboxylate.

reactant | 4,5-dibromo-2-furancarboxylic acid | 20.00 g | BrC=1C=C(OC1Br)C(=O)O | C5H2Br2O3
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4,5-dibromo-2-furancarboxylate | 20.10 g | BrC=1C=C(OC1Br)C(=O)OC(C)(C)C | C9H10Br2O3
